US08034812B2
Production of N-[6-(4-{[(2E)-3-phenylprop-2-enoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
Using (2E)-3-phenylacrylic acid (135 mg, 0.91 mmol), tetrahydrofuran (3.0 mL), N,N-dimethylformamide (20 μL, 0.26 mmol), oxalyl chloride (80 μL, 0.91 mmol), N-[6-(4-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.65 mmol) and N,N-dimethylacetamide (4.0 mL), and in the same manner as in Example 255, the title compound (133 mg, 47%) was obtained as a white powder.

reactant | (2E)-3-phenylacrylic acid | 0.91 mmol, 135 mg | C1(=CC=CC=C1)/C=C/C(=O)O | C9H8O2
reactant | N,N-dimethylformamide | 0.26 mmol, 20 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.91 mmol, 80 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(4-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.65 mmol, 200 mg | NC1=CC=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C1 | C16H15N5O2
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | N-[6-(4-{[(2E)-3-phenylprop-2-enoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 133 mg, 47% | C1(=CC=CC=C1)/C=C/C(=O)NC1=CC=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C1 | C25H21N5O3
